US06211199B1
43.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(pyrid-2-yl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-2-yl)-3-(2-oxoethyl)pyrrolidine and (0.24 mmol), (1-(2-ethyloxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.28 mmol), and 3 Å molecular sieves (about 12 g) in methanol (5 mL). After 6 hours, add sodium cyanoborohydride (0.15 g, 2.4 mmol) and stir under an inert atmosphere. After 18 hours, add a solution of 2 M sodium hydroxide and dichloromethane. After 1 hour, filter, separate the layers in the filtrate, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-2-yl)-3-(2-oxoethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CC=O)C2=NC=CC=C2)C=C(C1OC)OC | C21H24N2O5
reactant | (1-(2-ethyloxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 0.28 mmol | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | sodium cyanoborohydride | 2.4 mmol, 0.15 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(pyrid-2-yl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=NC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C37H48N6O5
